US07301022B2
N-(4-(6-(2-((1-Benzyl-1H-imidazol-5-yl)methylamino)-4-(trifluoromethyl)-phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
A mixture of N-(4-(6-(2-amino-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)-acetamide (0.20 g, 0.45 mmol, prepared as described in WO04014871) and 1-benzyl-1H-imidazole-5-carbaldehyde (0.21 g, 1.1 mmol, Combi-Blocks) in 1,2-dichloroethane (4 mL) was stirred for 24 h at 25° C. Sodium triacetoxy-borohydride (0.24 g, 1.1 mmol) was added and the mixture was stirred for 4 d at 25° C. Additional amounts of 1-benzyl-1H-imidazole-5-carbaldehyde (0.21 g, 1.1 mmol, Combi-Blocks) and sodium triacetoxyborohydride (0.24 g, 1.1 mmol) were added, and the mixture was stirred for 24 h at 25° C. The mixture was partitioned between H2O and EtOAc, the organic phase was separated, washed with H2O and brine, dried over Na2SO4, and filtered. The filtrate was evaporated under reduced pressure and the residue was purified by silica gel column chromatography [gradient: 0.5-2.2% MeOH (2 M in NH3)/CH2Cl2] to give the title compound as a yellow solid. MS (ESI, pos. ion) m/z: 616 (M+1). Mp: 264.0-264.1° C.

reactant | N-(4-(6-(2-amino-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)-acetamide | 0.45 mmol, 0.20 g | NC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C20H14F3N5O2S
reactant | 1-benzyl-1H-imidazole-5-carbaldehyde | 1.1 mmol, 0.21 g | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | Sodium triacetoxy-borohydride | 1.1 mmol, 0.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-benzyl-1H-imidazole-5-carbaldehyde | 1.1 mmol, 0.21 g | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | sodium triacetoxyborohydride | 1.1 mmol, 0.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | N-(4-(6-(2-((1-Benzyl-1H-imidazol-5-yl)methylamino)-4-(trifluoromethyl)-phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | C(C1=CC=CC=C1)N1C=NC=C1CNC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C31H24F3N7O2S
